US07713994B2
4-Methoxymethylene-4H-isoquinoline-1,3-dione
Trimethyl orthoformate (5.648 mL, 51.56 mmol) is added to a solution of 4H-Isoquinoline-1,3-dione (4 g, 24.82 mmol) in acetic anhydride (41.6 mL) and N,N-dimethylformamide (10.4 mL). After it is heated at 125° C. for 50 min, it is cooled and filtered to collected 3.698 g (73%) of the title compound as a yellow solid. mp 260-261° C.; MS (ESI) m/z 204.04 (M+1). Found: C, 58.34; H, 3.63; N, 10.21.

reactant | Trimethyl orthoformate | 51.56 mmol, 5.648 mL | C(OC)(OC)OC | C4H10O3
reactant | 4H-Isoquinoline-1,3-dione | 24.82 mmol, 4 g | C1(NC(CC2=CC=CC=C12)=O)=O | C9H7NO2
solvent | acetic anhydride | 41.6 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | N,N-dimethylformamide | 10.4 mL | CN(C=O)C | C3H7NO
product | 4-Methoxymethylene-4H-isoquinoline-1,3-dione | COC=C1C(NC(C2=CC=CC=C12)=O)=O | C11H9NO3
